US05273993
Benzenepentanol sulfamate (ester).
The title compound was prepared by procedures of Example 33 from sulfamoyl chloride and 5-phenyl-1-pentanol. The oil obtained was further purified by chromatography using a column with methylene chloride as eluting agent. Evaporation of appropriate fractions gave a viscous oil which solidified on standing. The solid was recrystallized from ethyl ether-petroleum ether (bp range 30°-60° C.) to give the title compound as white solid, mp 63°-66° C. in 60% yield.

reactant | sulfamoyl chloride | S(N)(=O)(=O)Cl | ClH2NO2S
reactant | 5-phenyl-1-pentanol | C1(=CC=CC=C1)CCCCCO | C11H16O
product | Benzenepentanol sulfamate | S(N)(=O)(=O)OCCCCCC1=CC=CC=C1 | C11H17NO3S
